*****************************************************************
* NXP BUK7Y21-40E
*
* Polarity N-Channel
* Ratings 40V/2.100000E-002OHMS/32.9974783300667A
*
* Date Created Mon Feb 04 07:47:38 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y21-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0139693704454896 TC=0.00388234205072366,1.75106307465655E-05
RBD 9 4 0.00364693032628172 TC=0.00388234205072366,1.75106307465655E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 4.14222377662756e-10
RG 1 2 1.71663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	431.488
+ -16	431.241
+ -10	430.552
+ -5	424.782
+ -4	448.377
+ -3	398.698
+ -2	337.999
+ -1	279.121
+ -0.5	247.789
+ -0.2	227.403
+ -0.1	226.829
+ 0	213.26412
+ 0.1	184.24032
+ 0.2	184.06964
+ 0.5	154.98404
+ 1	135.10664
+ 2	119.53004
+ 3	111.39312
+ 4	106.16812
+ 5	102.34701
+ 6	99.3771
+ 8	95.10617
+ 10	92.16005
+ 12	89.92648
+ 15	87.30484
+ 20	83.92417
+ 25	81.27898
+ 32	78.48212



.MODEL MINT NMOS(Vto=4.25 Kp=3.5e+001 Nfs=1030000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=6.3717358713693e-14
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=3.2386064e-10 Tt=8.008e-09)

.ENDS

